US05242945
To a stirring solution of 2.0 g (7.0 mmol) of oleic acid and 1.6 g (7.0 mmol) of 2-(4-bromobutoxy)tetrahydro-2H-pyran in 20 mL of tetrahydrofuran is added 2.3 g (7.1 mmol) of cesium carbonate and the reaction mixture is stirred overnight at room temperature. The reaction mixture is poured into water and extracted with three 100 mL portions of ether. The combined organic layers are dried over MgSO4 and concentrated in vacuo affording 2.9 g (100%) of (Z)-9-octadecenoic acid 4-[(tetrahydro-2H-pyran-2-yl)oxy]butyl ester. Next, 500 mg of Dowex 50W 8X resin is added to a stirring solution of 2.9 g (7.0 mmol) of (Z)-9-octadecenoic acid 4-[(tetrahydro-2H-pyran-2-yl)oxy]butyl ester in 100 mL of 1:1 tetrahydrofuran/methanol and the reaction mixture is stirred overnight at room temperature. The reaction mixture is filtered and concentrated in vacuo affording 2.4 g (100%) of alcohol. Next, 11 mL of 2.0M Jones reagent is added at 0° C. to a stirring solution of 2.4 g (7.0 mmol) of alcohol in 75 mL of acetone and the reaction mixture is stirred for 2 hours. The reaction mixture is poured into water and extracted with three 50 mL portions of ether. The combined organic layers are dried over MgSO4 and concentrated in vacuo affording 2.1 g (81%) of title compound.

reactant | oleic acid | 7.0 mmol, 2.0 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | 2-(4-bromobutoxy)tetrahydro-2H-pyran | 7.0 mmol, 1.6 g | BrCCCCOC1OCCCC1 | C9H17BrO2
reactant | cesium carbonate | 7.1 mmol, 2.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (Z)-9-octadecenoic acid 4-[(tetrahydro-2H-pyran-2-yl)oxy]butyl ester | 2.9 g, 100% | O1C(CCCC1)OCCCCOC(CCCCCCC\C=C/CCCCCCCC)=O | C27H50O4
